* Amplificador en drenador comú

.param amplada=150u, llargada=.35u, amp=50m, freq=1meg

Rl    vdd    D2     1k
Min   vdd    Gin    Sin    vss    modn    w={amplada}    l={llargada}
Mbuff vdd    D2     vout   vss    modn    w={amplada}    l={llargada}
M2    D2     G2     D      vss    modn    w={amplada}    l={llargada}
M1    D      G      vss    vss    modn    w={amplada}    l={llargada}
Vss   vss    0      0      DC     0
Vdd   vdd    vss    5      DC     5
Vb2   G2     vss    2.3    DC     2.3
Vbias in1    vss    1.08   DC     1.08
Ibias vout   vss    3m
Iin   Sin    vss    3m
Vin   in1    in     sin(0 {amp} {freq}) ac {amp}
Rg    in     Gin    2k
Cl    vout   vss    1p
Cin   Sin    G      1n
Rin   in1    G      10k

.op
.options reltol=1u
.ac dec 101 1 10g
.lib  ./cmos6tm.mod
.probe
.end